Parallel RLC circuit with Current Source
.circuit
I1 GND 1 ac 5 0 # Current source with Magnitude 5 V, phase 0
C1 GND 1 1
R1 GND 1 1000
L1 GND 1 1e-6
.end
.ac I1 1000      # Frequency of operation is 1000 Hz
